US06441237B1
3-hydroxy-2-(2,6-dimethylphenyl)-propylamine (5)
52.4 g (0.3 mol) of 3-hydroxy-2-(2,6-dimethylphenyl)-propionitrile are dissolved in 400 ml methanol and combined with 50 9 of NH3. The reaction mixture is hydrogenated under a pressure of 70 bar and at a reaction temperature of 70° C. in the presence of 60 g Raney nickel. After 4 h the mixture is cooled, filtered over silica gel and the solvent is eliminated in vacuo. The residue is distilled under high vacuum. Yield: 40.6 g (76%), boiling point: 135-140° C. (0.02 mbar); melting point of the hydrochloride: 166° C.

reactant | 3-hydroxy-2-(2,6-dimethylphenyl)-propionitrile | 0.3 mol, 52.4 g | OCC(C#N)C1=C(C=CC=C1C)C | C11H13NO
reactant | NH3 | N | H3N
solvent | methanol | 400 ml | CO | CH4O
catalyst | Raney nickel | 60 g | [Ni] | Ni
product | 3-hydroxy-2-(2,6-dimethylphenyl)-propylamine | OCC(CN)C1=C(C=CC=C1C)C | C11H17NO
